US08633313B2
To a solution of 2-chloro-3-nitropyridine (20 g, 126.15 mmol) in 1, 4 dioxane (378 mL) was added tributyl vinyl tin (48 g, 151.38 mmol). The reaction mixture was degassed using nitrogen for 30 min. Bis-(triphenylphosphin)palladium(II)-chloride (4.4 g, 6.3 mmol) was added to the reaction mixture. Reaction mass was stirred at 110° C. for overnight. The reaction mixture was cooled to rt. Water was added to the reaction mass and extracted with EtOAc. Organic layer was washed with brine and dried over Na2SO4. The organic layer was concentrated in vacuo and purified by column chromatography on silica gel using 0-5% EtOAc in hexane to give 3-nitro-2-vinylpyridine: 1H NMR (400 MHz, DMSO-d6) δ 5.741 (dd, J=2.0 Hz, J=10.4 Hz, 1H), 6.536 (dd, J=2.4 Hz, J=16.8 Hz, 1H), 7.134-7.202 (m, 1H), 7.593 (dd, J=4.4 Hz, J=8.4 Hz, 1H), 8.388 (dd, J=1.6 Hz, J=8.4 Hz, 1H), 8.857 (dd, J=0.8 Hz, J=4.4 Hz, 1H); LC-MS (ESI) m/z 151.1 [M+H]+.

reactant | 2-chloro-3-nitropyridine | 126.15 mmol, 20 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | tributyl vinyl tin | 151.38 mmol, 48 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | Water | O | H2O
solvent | 1, 4 dioxane | 378 mL | O1CCOCC1 | C4H8O2
catalyst | Bis-(triphenylphosphin)palladium(II)-chloride | 6.3 mmol, 4.4 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-nitro-2-vinylpyridine | [N+](=O)([O-])C=1C(=NC=CC1)C=C | C7H6N2O2
